US04395418
(3S, 4R)-3-[(R)-1-t-Butyldimethylsilyloxyethyl]-4-[(R)-1-methyl-2-(p-nitrobenzyloxycarbonylamino)ethylthio(thiocarbonyl)]thio-1-[1-(p-nitrobenzyloxycarbonyl)triphenylphosphoranylidenemethyl]azetidin-2-one
To a solution of (3S, 4R)-3-[(R)-1-t-butyldimethylsilyloxyethyl]-1-[1-hydroxy-1-(p-nitrobenzyloxycarbonyl)methyl]-4-[(R)-1-methyl-2-(p-nitrobenzyloxycarbonylamino)ethylthio(thiocarbonyl)]thioazetidin-2-one (12.6 g, 16.1 mmole) in tetrahydrofuran (150 ml) were added at -15° C., in turn, 2,6-lutidine (2.00 g, 18.7 mmole) and thionyl chloride (2.11 g, 17.7 mmole), and the mixture was stirred at the same temperature for 15 minutes. 2,6-Lutidine (3.45 g, 32.2 mmole) and triphenylphosphine (12.6 g, 48.1 mmole) were then added and the mixture was stirred at 65° C. under a nitrogen stream for a further 35 hours. After completion of the reaction, the reaction mixture was diluted with ethyl acetate; washed with water and dried. The solvent was distilled off under reduced pressure and the residue was purified by column chromatography (250 g of silica gel); eluted with a 15-20% v/v solution of ethyl acetate in benzene; giving the desired compound (10.9 g; 66%) in the form of a yellow oil.

reactant | (3S, 4R)-3-[(R)-1-t-butyldimethylsilyloxyethyl]-1-[1-hydroxy-1-(p-nitrobenzyloxycarbonyl)methyl]-4-[(R)-1-methyl-2-(p-nitrobenzyloxycarbonylamino)ethylthio(thiocarbonyl)]thioazetidin-2-one | 16.1 mmole, 12.6 g | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1SC(=S)S[C@@H](CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])O)=O | C32H42N4O11S3Si
reactant | 2,6-lutidine | 18.7 mmole, 2.00 g | N1=C(C=CC=C1C)C | C7H9N
reactant | thionyl chloride | 17.7 mmole, 2.11 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2,6-Lutidine | 32.2 mmole, 3.45 g | N1=C(C=CC=C1C)C | C7H9N
reactant | triphenylphosphine | 48.1 mmole, 12.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S, 4R)-3-[(R)-1-t-Butyldimethylsilyloxyethyl]-4-[(R)-1-methyl-2-(p-nitrobenzyloxycarbonylamino)ethylthio(thiocarbonyl)]thio-1-[1-(p-nitrobenzyloxycarbonyl)triphenylphosphoranylidenemethyl]azetidin-2-one | 10.9 g, 66% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1SC(=S)S[C@@H](CNC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C50H55N4O10PS3Si
